US07384961B2
224 ml n-butyllithium solution (2.5 mol/l in hexane) were added dropwise to a solution of 54 ml 3-bromopyridine in 750 ml analytical grade diethyl ether in the course of 30 minutes at a temperature of −35 to −40° C. After a further 20 minutes at this temperature, 86.9 g 2-dimethylaminomethylcyclohexanone, dissolved in 90 ml analytical grade diethyl ether, were added dropwise in the course of 30 minutes, with continued cooling, and the mixture was stirred again for 60 minutes with gentle warming to −30° C. 150 ml water were then added with warming of the reaction mixture to 0° C., the phases were separated, the aqueous phase was extracted twice with ethyl acetate, the combined organic phases were dried over magnesium sulfate and filtered and the filtrate was concentrated. The crude product obtained (139 g) was dissolved in 700 ml absolute ethanol, and 142 ml chlorotrimethylsilane and 20.2 ml water were added in succession and the mixture was stirred in an ice-bath for 12 hours. The solid which had precipitated out was filtered off with suction, washed with a little absolute ethanol and dried at 90° C. in vacuo (approx. 50 mbar) for two hours. 63.9 g 2-dimethylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride were obtained.

reactant | n-butyllithium | 2.5 mol/l, 224 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 54 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-dimethylaminomethylcyclohexanone | 86.9 g | CN(C)CC1C(CCCC1)=O | C9H17NO
reactant | chlorotrimethylsilane | 142 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 700 ml | C(C)O | C2H6O
solvent | water | 20.2 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-dimethylaminomethyl-1-pyridin-3-yl-cyclohexanol hydrochloride | 63.9 g | Cl.CN(C)CC1C(CCCC1)(O)C=1C=NC=CC1 | InChI=1S/C14H22N2O.ClH/c1-16(2)11-13-6-3-4-8-14(13,17)12-7-5-9-15-10-12;/h5,7,9-10,13,17H,3-4,6,8,11H2,1-2H3;1H
